US04902701
A. 2-(4-Methoxyphenoxy)terephthalic acid
2-(4-Methylthiophenoxy)terephthalic acid, m.p. 294°-296° from methanol, from 4-(methylthio)phenol.

reactant | 2-(4-Methylthiophenoxy)terephthalic acid | CC1=CC=C(SC2=C(C(=O)O)C=CC(=C2)C(=O)O)C=C1 | C15H12O4S
reactant | 4-(methylthio)phenol | CSC1=CC=C(C=C1)O | C7H8OS
reactant | methanol | CO | CH4O
product | 2-(4-Methoxyphenoxy)terephthalic acid | COC1=CC=C(OC2=C(C(=O)O)C=CC(=C2)C(=O)O)C=C1 | C15H12O6
